US07368178B2
10-(2-naphthalenyl)-N,N-diphenyl-9-anthraceneamine (III)
9-bromo-10-(2-naphthylenyl)anthracene (3.3 g, 0.008 mol), diphenylamine (1.5 g, 0.008 mol), 1.0 g sodium tert-butoxide, 0.1 g palladium(II) acetate, 3 drops tri-tert-butylphosphine and 80 ml toluene are added to a round bottom flask under a nitrogen atmosphere. Mixture heated at reflux for 2 days. After cooling, toluene removed by rotary evaporation and remaining solid chromatographer on a silica gel column to yield 4.0 g (99% yield) of pure yellow product. FD-MS (m/z): 471.

reactant | diphenylamine | 0.008 mol, 1.5 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | sodium tert-butoxide | 1.0 g | CC(C)([O-])C.[Na+]
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tri-tert-butylphosphine | 3 drops | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | palladium(II) acetate | 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 10-(2-naphthalenyl)-N,N-diphenyl-9-anthraceneamine | 4.0 g, 99% yield | C1=C(C=CC2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC=CC=C1 | C36H25N
